US05783689
To a solution of 5-fluorouridine (5-FU, 521 mg, 1.98 mmol) in 6 mL of anhydrous THF-DMF (1:1 under nitrogen was added N-(benzyioxycarbonyl)-L-valine (500 mg, 1.99 mmol), triphenylphosphine (521 mg, 1.98 mmol), and diisopropyl azodicarboxylate (402 mg, 1.98 mmol). The mixture was stirred overnight at 25 °C. The volatile components were removed under reduced pressure and the residue chromatographed over silica gel eluting with methyl alcohol:chloroform (1:5 ) to provide 5'-O-[N-(benzyloxycarbonyl)-L-valinyl]-5-fluorouridine (413 mg., 40% yield) as a white solid melting at about 64° C.-67° C.

reactant | 5-fluorouridine | 1.98 mmol, 521 mg | FC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O6
reactant | N-(benzyioxycarbonyl)-L-valine | 1.99 mmol, 500 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | triphenylphosphine | 1.98 mmol, 521 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.98 mmol, 402 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF DMF | 6 mL | C1CCOC1.CN(C)C=O
product | 5'-O-[N-(benzyloxycarbonyl)-L-valinyl]-5-fluorouridine | 413 mg, 40% yield | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O)O | C22H26FN3O9
